US07304081B2
(1R)-1′-[(1-Pyridin-4-ylcyclobutyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
Lithium hydroxide, monohydrate (0.013 g, 0.00031 mol) was added to a solution of ethyl 1-pyridin-4-ylcyclobutanecarboxylate (32 mg, 0.00016 mol) in tetrahydrofuran (1.6 mL, 0.020 mol) and water (0.3 mL, 0.02 mol). The mixture was stirred at room temperature until the reaction was complete. The mixture was acidified (to pH=5) with 4 M HCl (75 μl) and concentrated to afford the carboxylic acid. Then [(1R,4S)-7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl]methanesulfonic acid-(1R)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (1:1) (0.033 g, 0.000078 mol) and (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (0.041 g, 0.000078 mol) were added to the above crude product of the carboxylic acid, followed by 4-methylmorpholine (6.0 μL, 0.00055 mol). The reaction mixture was stirred at room temperature for 2 hours. The crude product was purified by prep-LCMS. LC/MS: 349.1 (M+H+).

reactant | [(1R,4S)-7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl]methanesulfonic acid (1R)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.000078 mol, 0.033 g | CC1([C@]2(C(C[C@@H]1CC2)=O)CS(=O)(=O)O)C.N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.000078 mol, 0.041 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 4-methylmorpholine | 0.00055 mol, 6.0 μL | CN1CCOCC1 | C5H11NO
product | (1R)-1′-[(1-Pyridin-4-ylcyclobutyl)carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | N1=CC=C(C=C1)C1(CCC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H20N2O3
